US05858995
Into a mixture of 2-methyl-7-nitrobenzo[b]furan (200 mg) and aluminum chloride (301 mg) in dichloromethane was passed hexafluoroacetone gas which was made from hexafluoroacetone trihydrate (4.7 ml) and conc. sulfuric acid (15 ml). The mixture was stirred at ambient temperature for 4 hours and then, cooled to 4° C. To the mixture was added 1N-hydrochloric acid dropwise. The organic layer was separated, washed with brine, dried over sodium sulfate and concentrated in vacuo. The residue was purified by column chromatography on silica gel and the obtained oil was crystallized from n-hexane to give 3-(1-hydroxy-2,2,2-trifluoro-1-trifluoromethylethyl)-2-methyl-7-nitrobenzo[b]furan (265 mg).

reactant | 2-methyl-7-nitrobenzo[b]furan | 200 mg | CC1=CC2=C(O1)C(=CC=C2)[N+](=O)[O-] | C9H7NO3
reactant | aluminum chloride | 301 mg | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hexafluoroacetone | FC(C(=O)C(F)(F)F)(F)F | C3F6O
reactant | hexafluoroacetone trihydrate | 4.7 ml | O.O.O.FC(C(=O)C(F)(F)F)(F)F
reactant | sulfuric acid | 15 ml | S(O)(O)(=O)=O | H2O4S
reactant | hydrochloric acid | Cl | ClH
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-(1-hydroxy-2,2,2-trifluoro-1-trifluoromethylethyl)-2-methyl-7-nitrobenzo[b]furan | 265 mg | OC(C(F)(F)F)(C(F)(F)F)C=1C2=C(OC1C)C(=CC=C2)[N+](=O)[O-] | C12H7F6NO4
